US07091353B2
A mixture of tert-butyl 2-(4-cyano-1-oxoisoindolin-2-yl)-4-carbamoylbutanoate (1.0 g, 2.91 mmol) and trifluoroacetic acid (5 mL) was stirred for 2 hours. The mixture was concentrated and the residue was crystallized from ether (15 mL) to give 2-(4-cyano-1-oxoisoindolin-2-yl)-4-carbamoylbutanoic acid (0.74 g, 89%) as a white solid: 1H NMR (DMSO-d6) δ 13.12 (b, 1H), 8.12 (d, J=7.6 Hz, 1H), 8.03 (d, J=7.6 Hz, 1H), 7.73 (t, J=7.6 Hz, 1H), 7.23 (s, 1H), 6.76 (s, 1H), 4.80–4.62 (m, 3H), 2.32–2.09 (m, 4H).

reactant | tert-butyl 2-(4-cyano-1-oxoisoindolin-2-yl)-4-carbamoylbutanoate | 2.91 mmol, 1.0 g | C(#N)C1=C2CN(C(C2=CC=C1)=O)C(C(=O)OC(C)(C)C)CCC(N)=O | C18H21N3O4
reactant | trifluoroacetic acid | 5 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 2-(4-cyano-1-oxoisoindolin-2-yl)-4-carbamoylbutanoic acid | 0.74 g, 89% | C(#N)C1=C2CN(C(C2=CC=C1)=O)C(C(=O)O)CCC(N)=O | C14H13N3O4
